US06187914B1
8) Preparation of the Amidite of Deoxyguanosine
5′-O-p-nitrobenzoyl-2-N-t-butylphenoxyacetyldeoxyguanosine (1 eq) is dried in a dichloromethane/acetonitrile mixture and reacted with 1.2 eq of bisdiisopropylaminocyanoethoxyphosphine and 0.5 eq of diisopropylammoniumtetrazolide in anhydrous dichloromethane. After reacting for 2 hours, the reaction mixture is diluted and washed successively with 0.5 M sodium bicarbonate and saturated sodium chloride. The organic phase is evaporated to dryness. After redissolution in chloroform and precipitation in hexane, the product is dried under vacuum and stored under argon. This amidite is soluble in acetonitrile, a solvent in which oligonucleotide syntheses are conventionally carried out.

reactant | 5′-O-p-nitrobenzoyl-2-N-t-butylphenoxyacetyldeoxyguanosine | 1 eq | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@H]2[C@H](C[C@@](O2)(N2C=NC=3C(=O)NC(NC(C)(C)C)=NC23)C(COC2=CC=CC=C2)=O)O)C=C1 | C29H30N6O9
reactant | dichloromethane acetonitrile | ClCCl.C(C)#N
reactant | bisdiisopropylaminocyanoethoxyphosphine | 1.2 eq | C(C)(C)N(C(C)C)P(OCCC#N)N(C(C)C)C(C)C | C15H32N3OP
reactant | diisopropylammoniumtetrazolide | 0.5 eq | N1N=NN=[C-]1.C(C)(C)[NH2+]C(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | Deoxyguanosine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O4
